US05547972
A solution of 4'-chloro-2'-hydroxyacetophenone (1.0 g) in dry DMF (5 ml) was added to a stirred mixture of sodium hydride (0.235 g, 60% dispersion) in dry DMF (5 ml) at 5° C. under nitrogen. After the addition the mixture was stirred at 0° C. for 15 minutes and then at ambient temperature for 1 hour. A solution of iodomethane (0.92 g) in dry DMF (5 ml) was added dropwise to the mixture whilst keeping the temperature below 10° C. The reaction mixture was stirred at ambient temperature for 5 hours and then left to stand for 16 hours. Potassium carbonate solution was added to basify the mixture and the product was extracted into dichloromethane. The combined extracts were dried and evaporated. The residue was dissolved in ether, washed with water, then dried and evaporated to give 4'-chloro-2'-methoxyacetophenone which was sufficiently pure for synthetic use in Example 17.

reactant | 4'-chloro-2'-hydroxyacetophenone | 1.0 g | ClC1=CC(=C(C=C1)C(C)=O)O | C8H7ClO2
reactant | sodium hydride | 0.235 g | [H-].[Na+]
reactant | iodomethane | 0.92 g | IC | CH3I
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4'-chloro-2'-methoxyacetophenone | ClC1=CC(=C(C=C1)C(C)=O)OC | C9H9ClO2
